2162-06-08 21:39:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59W recently admitted for pyelo/bacteremia - finished cipro yesterday.
   Found to be gaining significant weight today during outpatient
   appointmrnt [**Medical Record Number **]lasix increased. At home became more SOB and returned to
   hospital. Also complained of fevers, CP.
   In ER BP 147/92, RR 44, hypoxemic requiring 100% NRB then BIPAP (is
   DNR/I), creatinine stable at 2.3. Started on NTG IV and lasix,
   antibiotics.
                                 History obtained from Patient, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-6-8**] 07:39 PM
   Other medications:
   CSA, pred 5, cellcept, insulin
   Changes to medical and family history:
   DM
   UTI's
   ESRD - renal transplant, now with renal insufficiency
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: weight gain
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2162-6-8**] 09:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 75 (68 - 79) bpm
   BP: 170/42(76) {143/42(70) - 170/59(90)} mmHg
   RR: 28 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             74 mL
   PO:
             TF:
   IVF:
   74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,785 mL
   Urine:
   1,285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,711 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: BIPAP
   Vt (Spontaneous): 437 (400 - 437) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+, edema
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   311 K/uL
   178 mg/dL
   2.2 mg/dL
   30 mEq/L
   5.2 mEq/L
   72 mg/dL
   99 mEq/L
   140 mEq/L
   27.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
   WBC
   10.5
   Hct
   27.0
   Plt
   311
   Cr
   2.2
   Glucose
   178
   Other labs: Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:5.7 mg/dL
   Fluid analysis / Other labs: BNP 6982
   UA neg
   Imaging: CXR bilat fluffy infiltrates
   Microbiology: BCx pending
   UCx pending
   ECG: NSR, old LBBB
   Assessment and Plan
 Respiratroy distress, hypoxemia - weight gain, BNP, HTN and CXR
   suggest pulmonary edema/CHF likely due to dietary indiscretion and
   diastolic dysfunction in setting of HTN and renal insufficiency. Will
   continue to diurese, wean NTG, wean BIPAP as tolerated, control BP
   Leukocytosis, ? fever, infiltrates - suspect pulmonary edema though
   will pursue micro w/u and cover for pneumonia with abx for now
   renal transplant, renal insufficiency - check CSA level, continue
   immunosuppression
   DM - continue insulin
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-6-8**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2162-06-09 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned off NTG gtt
   - bipap on overnight
   - diuril and lasix with UOP -2.8 L
   - ordered RUQ U/S for abd pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-8**] 11:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-9**] 12:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-9**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 58 (57 - 79) bpm
   BP: 146/55(76) {138/42(68) - 189/70(150)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    382 mL
                                                                    316 mL
   PO:
             TF:
   IVF:
                                                                    382 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                  1,210 mL
   Urine:
                                                                  1,845 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,963 mL
                                                                   -895 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 403 (400 - 696) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 11.4 L/min
   Physical Examination
   VITAL SIGNS: T 97.4  HR 69  BP 143/59  RR 18  100% Bipap (FiO2 100%,
   [**9-27**])
   GEN: dyspneic at end of sentences, working to breath
   HEENT: anicteric, OP - no exudate, no erythema, unable to see JVP
   secondary to anatomy
   CHEST: bilateral rales to top of lungs, expiratory wheezes
   CV: RRR, nl S1, S2, no m/r/g
   ABD: NDNT, soft, obese, NABS
   EXT: [**1-26**]+ pitting edema to bilateral knees
   NEURO: A&O x 3
   DERM: no rashes
   Labs / Radiology
   287 K/uL
   7.4 g/dL
   119 mg/dL
   2.4 mg/dL
   34 mEq/L
   4.9 mEq/L
   73 mg/dL
   99 mEq/L
   142 mEq/L
   25.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
   WBC
   10.5
   8.1
   Hct
   27.0
   25.3
   Plt
   311
   287
   Cr
   2.2
   2.4
   Glucose
   178
   119
   Other labs: ALT / AST:15/18, Alk Phos / T Bili:118/0.5, Amylase /
   Lipase:/41, Albumin:3.6 g/dL, LDH:347 IU/L, Ca++:7.3 mg/dL, Mg++:1.5
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 59 y.o. F with type 1 diabetes, hypertension,
   frequent UTI on tetracycline immunosuppresion, ESRD s/p CRT in [**2149**],
   who presents with acute onset of dyspnea.
   .
   # Dyspnea: Given increased wt gain in the last 2 weeks (40 lbs),
   bilateral rales in lungs, pitting edema, CXR with pulmonary edema, and
   SBP in 200s on presentation, likely this was flash pulmonary edema [**1-25**]
   hypertensive urgency with component of CHF/volume overload.  Pt BP now
   normalized after NTG gtt, but she continues to be quite dypsneic.  <500
   cc UOP after IV lasix 80 mg x 2.  Fluid overload may be [**1-25**] dietary
   indiscretions.
   - wean off NTG gtt for SBP 140s
   - treat with diuril 500 mg IV x 1 and lasix 160 mg IV x 1 30 minutes
   afterwards; may repeat once if low UOP
   - will need to consider urgent HD if does not respond to diuresis and
   renal is aware
   - daily wts
   - NPO for now, but will need fluid restriction when tolerating po's
   - BP control for SBP 140s
   - recheck ABG
   - noninvasive ventilation prn for WOB
   - albuterol prn
   .
   # Leukocytosis: Afebrile here in hospital, but pt states that she was
   febrile at home.  ? infiltrate on CXR and she complains of cough.
   - droplet precautions
   - check DFA for influenza
   - check legionella
   - continue zosyn and vancomycin
   - f/u cultures and UA/Urine culture
   - send beta glucan
   .
   # ESRD s/p renal transplant:
   - appreciate renal recs
   - send cyclosporine level in AM
   - continue immunosuppressants per renal (cyclosporine, prednisone,
   cellcept)
   - continue calcitriol, epo, calcium carbonate, ferrous sulfate,
   sevelamer, sodium bicarbonate
   - renal transplant ultrasound
   .
   # DM, type 1: continue lantus and HISS
   .
   # HTN: SBP goal 140s
   - continue metoprolol, nifedipine CR
   .
   # Hyperlipidemia: continue simvastatin
   .
   # History of frequent UTIs: contiue tetracycline suppression
   .
   # Obesity: will hold sibutramine for now
   .
   # ? gout: continue allopurinol renally dosed
   .
   FEN: no IVFs given diuresis / replete lytes prn / NPO except meds
   PPX: SQ heparin, bowel regimen prn, PPI
   ACCESS: 2 20 guage PIVs
   CODE STATUS: DNR/DNI (confirmed with daughter)
   EMERGENCY CONTACT: with daughter
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Comments: HISS and standing
   Lines:
   20 Gauge - [**2162-6-8**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2162-06-09 09:35:00 Physician Attending Progress Note
Chief Complaint: Dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Resp distress due to pulmonary edema
   24 Hour Events:
   weaned off nitro gtt
   bipap overnight intermittently
   diuresed well with diuril and lasix
   -2.8 L
   On shovel mask presently
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-9**] 12:38 AM
   Vancomycin - [**2162-6-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-6-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-6-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-9**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 67 (57 - 79) bpm
   BP: 173/56(83) {138/42(68) - 189/89(150)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    382 mL
                                                                    551 mL
   PO:
             TF:
   IVF:
                                                                    382 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                  1,905 mL
   Urine:
                                                                  1,845 mL
                                                                  1,905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,963 mL
                                                                 -1,354 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 403 (400 - 696) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 11.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no JVD, no HJR
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Breath Sounds: Crackles improved to 2/3rds way
   up.
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+, edema
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   7.4 g/dL
   287 K/uL
   119 mg/dL
   2.4 mg/dL
   34 mEq/L
   4.9 mEq/L
   73 mg/dL
   99 mEq/L
   142 mEq/L
   25.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
   WBC
   10.5
   8.1
   Hct
   27.0
   25.3
   Plt
   311
   287
   Cr
   2.2
   2.4
   Glucose
   178
   119
   Other labs: ALT / AST:15/18, Alk Phos / T Bili:118/0.5, Amylase /
   Lipase:/41, Albumin:3.6 g/dL, LDH:347 IU/L, Ca++:7.3 mg/dL, Mg++:1.5
   mg/dL, PO4:6.0 mg/dL
   Imaging: renal us: improved indices
   CXR: improved edema
   Assessment and Plan
 PULMONARY EDEMA
 Respiratroy distress, hypoxemia - weight gain, BNP, HTN and CXR
   suggest pulmonary edema/CHF likely due to dietary indiscretion and
   diastolic dysfunction in setting of HTN and renal insufficiency. Will
   continue to diurese with diuril and lasix when UO < 150, off NTG, off
   BIPAP. Check daily wt, fluid restriction. Afterolad reduction with
   nifedepine (maximize prior to adding another [**Doctor Last Name **]), metoprolol
   Leukocytosis improved, low grade fever, infiltrates - suspect pulmonary
   edema though will pursue micro w/u and cover for pneumonia with abx for
   now, all cxs pend, viral swab pending. f/u vanc level.
   renal transplant, renal insufficiency - check CSA level, continue
   immunosuppression, hold sodium bicarb
   DM - continue insulin
   ICU Care
   Nutrition: po salt restricted diet
   Glycemic Control:  good
   Lines:
   20 Gauge - [**2162-6-8**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Comments:
   Communication:  Comments: with patient
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
    MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.

2162-06-10 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -called back in as nursing and residents felt uncomfortable w/ shovel
   mask at 70% FiO2- attempted 6LNC and O2 sats 90%
   -given 1 dose of diuril and later in day 1 dose of 160mg IV lasix
   -cr increasing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-10**] 04:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-6-9**] 08:00 AM
   Furosemide (Lasix) - [**2162-6-9**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2162-6-9**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-10**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 68 (64 - 80) bpm
   BP: 148/45(70) {89/32(51) - 173/90(101)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.7 kg (admission): 124.8 kg
             Total In:
                                                                  1,770 mL
                                                                    288 mL
   PO:
                                                                    610 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,160 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    360 mL
   Urine:
                                                                  2,455 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   GEN: dyspneic at end of sentences, working to breath
   HEENT: anicteric, OP - no exudate, no erythema, unable to see JVP
   secondary to anatomy
   CHEST: bilateral rales to mid lung bilaterally, worse on R side
   CV: RRR, nl S1, S2, no m/r/g, soft heart sounds
   ABD: NDNT, soft, obese, NABS
   EXT: [**1-26**]+ pitting edema to bilateral knees
   NEURO: A&O x 3
   DERM: no rashes
   Labs / Radiology
   295 K/uL
   6.7 g/dL
   140 mg/dL
   3.0 mg/dL
   31 mEq/L
   4.3 mEq/L
   78 mg/dL
   96 mEq/L
   139 mEq/L
   22.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
                             [**2162-6-9**]  04:33 PM
                             [**2162-6-10**]  03:59 AM
   WBC
   10.5
   8.1
   6.5
   Hct
   27.0
   25.3
   22.3
   Plt
   [**Telephone/Fax (3) 9348**]
   Cr
   2.2
   2.4
   2.7
   3.0
   Glucose
   178
   119
   177
   140
   Other labs: ALT / AST:15/18, Alk Phos / T Bili:118/0.5, Amylase /
   Lipase:/41, Albumin:3.6 g/dL, LDH:347 IU/L, Ca++:7.3 mg/dL, Mg++:2.0
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   59 y.o. F with type 1 diabetes, hypertension, frequent UTI on
   tetracycline immunosuppresion, ESRD s/p CRT in [**2149**], who presents with
   acute onset of dyspnea.
   # Dyspnea: pulmonary edema and peripheral edema, hypertensive urgenc
   -continue to treat HTN urgency, has diastolic CHF so will continue
   lopressor 200mg po bid and increase nifedipine to 120mg daily
   -treat nosocomail PNA w/ vanc / zosyn (leukocytosis and infiltrate on
   CXR)
   -qam vanc levels
   -treat lasix 160mg IV x 1 and diuril 500mg IV x 1
   -daily weights, goal I/O negative 1 to 2  liters
   -continue shovel mask for supplemental O2 and attempt to wean
   -check DFA for influenza and legionella, f/u cultures and galactomannan
   # ESRD s/p renal transplant:
   - appreciate renal recs
   -f/u cyclosporine level
   -callout to Dr. [**Last Name (STitle) 7809**]
s service
   - continue immunosuppressants per renal (cyclosporine, prednisone,
   cellcept)
   - continue calcitriol, epo, calcium carbonate, ferrous sulfate,
   sevelamer, sodium bicarbonate
   # DM, type 1: continue lantus and HISS
   -salt / fluid restricted diet
   # HTN: SBP goal 140s
   - continue metoprolol, nifedipine CR
   # Hyperlipidemia: continue simvastatin
   # History of frequent UTIs: contiue tetracycline suppression
   # Obesity: will hold sibutramine for now
   # ? gout: continue allopurinol renally dosed
   FEN: no IVFs given diuresis / replete lytes prn / NPO except meds
   PPX: SQ heparin, bowel regimen prn, PPI
   ACCESS: 2 20 guage PIVs
   CODE STATUS: DNR/DNI (confirmed with daughter)
   EMERGENCY CONTACT: with daughter
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-6-8**] 04:59 PM
   Prophylaxis:
   DVT: sc heparin tid
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2162-06-10 09:18:00 Physician Attending Progress Note
Chief Complaint: Resp distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pulm edema
   24 Hour Events:
   No events.
   Tolerating diuresis
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-10**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-6-9**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2162-6-10**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Psychiatric / Sleep: Anxiety
   Flowsheet Data as of  [**2162-6-10**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 66 (64 - 80) bpm
   BP: 148/48(68) {89/32(51) - 159/90(97)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.7 kg (admission): 124.8 kg
             Total In:
                                                                  1,770 mL
                                                                    311 mL
   PO:
                                                                    610 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,160 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    500 mL
   Urine:
                                                                  2,455 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no JVD, no HJR
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Breath Sounds: Crackles improved, no wheezes
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+, edema
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   6.7 g/dL
   295 K/uL
   140 mg/dL
   3.0 mg/dL
   31 mEq/L
   4.3 mEq/L
   78 mg/dL
   96 mEq/L
   139 mEq/L
   22.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
                             [**2162-6-9**]  04:33 PM
                             [**2162-6-10**]  03:59 AM
                             [**2162-6-10**]  08:22 AM
   WBC
   10.5
   8.1
   6.5
   Hct
   27.0
   25.3
   22.3
   22.1
   Plt
   [**Telephone/Fax (3) 9348**]
   Cr
   2.2
   2.4
   2.7
   3.0
   Glucose
   178
   119
   177
   140
   Other labs: ALT / AST:15/18, Alk Phos / T Bili:118/0.5, Amylase /
   Lipase:/41, Albumin:3.6 g/dL, LDH:347 IU/L, Ca++:7.3 mg/dL, Mg++:2.0
   mg/dL, PO4:6.0 mg/dL
   Microbiology: Viral screen: neg
   Other cxs: ngtd
   Assessment and Plan
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 DYSPNEA (SHORTNESS OF BREATH)
 PULMONARY EDEMA
   - Resp: significant improvement with diuresis, needs more slow diuresis
   due to mild hypotension. Did not require bipap > 24 hrs
   - ID: Vanc level 16, dose today
   - HTN: Afterload reduction, SBP better on current meds
   - Cr rising in the setting of diuresis...follow closely, renal
   transplant following, ? adjust doses of immune suppressants, f/u CSA
   level, low yesterday
   - DM - continue insulin
   - Anemia: transfuse with lasix today, no e/o bleeding anywhere
   ICU Care
   Nutrition:
   po intake
   Glycemic Control:  fair
   Lines:
   20 Gauge - [**2162-6-8**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : to floor today
   Total time spent:
   ------ Protected Section ------
   Attending Addendum
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2162-6-10**] 13:43 ------

2162-06-11 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - called out to [**Hospital Ward Name 790**] 10 (d/c summary updated), but had to call back in
   due to unstable O2 saturation and lack of response to diuretic dosing
   - IV lasix 80 mg given twice in the morning with minimal (60 cc UOP).
   Given 250 mg Diuril/100 mg Lasix with ~200 cc UOP. At 7 pm given Diuril
   500/Lasix 160 mg with ~600 cc UOP.
   -PM Cr up to 3.3.  HCT stable
   -No transfusion. because trying to diurese.
   -Brought O2 down to 4L with stable O2 saturation overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-10**] 12:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-11**] 04:26 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-6-10**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2162-6-10**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-11**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 65 (62 - 73) bpm
   BP: 148/43(66) {103/37(54) - 148/50(69)} mmHg
   RR: 18 (12 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.7 kg (admission): 124.8 kg
             Total In:
                                                                  1,615 mL
                                                                    320 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,015 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    605 mL
   Urine:
                                                                  1,350 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   6.6 g/dL
   136 mg/dL
   3.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   81 mg/dL
   93 mEq/L
   138 mEq/L
   22.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
                             [**2162-6-9**]  04:33 PM
                             [**2162-6-10**]  03:59 AM
                             [**2162-6-10**]  08:22 AM
                             [**2162-6-10**]  05:10 PM
                             [**2162-6-11**]  03:19 AM
   WBC
   10.5
   8.1
   6.5
   5.7
   Hct
   27.0
   25.3
   22.3
   22.1
   22.9
   22.3
   Plt
   [**Telephone/Fax (3) 9350**]07
   Cr
   2.2
   2.4
   2.7
   3.0
   3.3
   3.6
   Glucose
   178
   119
   177
   140
   182
   136
   Other labs: ALT / AST:15/18, Alk Phos / T Bili:118/0.5, Amylase /
   Lipase:/41, Albumin:3.6 g/dL, LDH:347 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   59 y.o. F with type 1 diabetes, hypertension, frequent UTI on
   tetracycline immunosuppresion, ESRD s/p CRT in [**2149**], who presents with
   acute onset of dyspnea.
   # Dyspnea: pulmonary edema and peripheral edema, hypertensive urgency
   -HTN improved on home meds with diuresis
   -continues to have O2 requirement, give diuril 500mg IV and lasix 160mg
   IV x 1
   -nosocomial PNA- vanc zosyn
   -qam vanc levels (dosed on q48hrs)
   -daily weights
   # ESRD s/p renal transplant:
   - appreciate renal recs
   -f/u cyclosporine level
   -callout to Dr. [**Last Name (STitle) 7809**]
s service
   - continue immunosuppressants per renal (cyclosporine, prednisone,
   cellcept)
   - continue calcitriol, epo, calcium carbonate, ferrous sulfate,
   sevelamer, sodium bicarbonate
   # DM, type 1: continue lantus and HISS
   -salt / fluid restricted diet
   # HTN:
   - continue metoprolol, nifedipine CR
   # Hyperlipidemia: continue simvastatin
   # History of frequent UTIs: contiue tetracycline suppression
   # Obesity: will hold sibutramine for now
   # ? gout: continue allopurinol renally dosed
   FEN: no IVFs given diuresis / replete lytes prn / NPO except meds
   PPX: SQ heparin, bowel regimen prn, PPI
   ACCESS: 2 20 guage PIVs
   CODE STATUS: DNR/DNI (confirmed with daughter)
   EMERGENCY CONTACT: with daughter
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-6-8**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2162-06-11 11:29:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pulm edema
   24 Hour Events:
 CALLED OUT but recalled due to tenuoius resp status. Responds to
   diuril/lasix combo. Cr up to 3.6. 6L O2 currently.
   RUQ tenderness.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-10**] 12:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-11**] 11:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-6-10**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2162-6-11**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-11**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 70 (62 - 73) bpm
   BP: 130/52(70) {103/37(54) - 148/52(71)} mmHg
   RR: 16 (12 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.7 kg (admission): 124.8 kg
             Total In:
                                                                  1,615 mL
                                                                    464 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,015 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    870 mL
   Urine:
                                                                  1,350 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no JVD, no HJR
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Breath Sounds: Crackles improved, no wheezes
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+, edema
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   6.6 g/dL
   307 K/uL
   136 mg/dL
   3.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   81 mg/dL
   93 mEq/L
   138 mEq/L
   22.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
                             [**2162-6-9**]  04:33 PM
                             [**2162-6-10**]  03:59 AM
                             [**2162-6-10**]  08:22 AM
                             [**2162-6-10**]  05:10 PM
                             [**2162-6-11**]  03:19 AM
   WBC
   10.5
   8.1
   6.5
   5.7
   Hct
   27.0
   25.3
   22.3
   22.1
   22.9
   22.3
   Plt
   [**Telephone/Fax (3) 9350**]07
   Cr
   2.2
   2.4
   2.7
   3.0
   3.3
   3.6
   Glucose
   178
   119
   177
   140
   182
   136
   Other labs: ALT / AST:15/18, Alk Phos / T Bili:118/0.5, Amylase /
   Lipase:/41, Albumin:3.6 g/dL, LDH:347 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   CXR: peristent bilateral fluffy infiltrates
   Assessment and Plan
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 DYSPNEA (SHORTNESS OF BREATH)
 PULMONARY EDEMA
   59 y.o. F with type 1 diabetes, hypertension, frequent UTI on
   tetracycline immunosuppresion, ESRD s/p CRT in [**2149**], who presents with
   acute onset of dyspnea.
   - Resp/Renal: significant improvement with diuresis, but needs more
   slow diuresis due to worsening Cr. Start last drip with standing
   diuril. Goal -1L today. Unable to lay flat to go to CT. Check US chest,
   ? any fluid to tap.
   - CVS: repeat echo to see if any changes since [**Month (only) **], ? new MR
   - ID: Vanc given yesterday, check level tomorrow, continue Zosyn x 8
   days
   -GI: new RUQ pain, check amylase, lipase, LFTs, RUQ US
   - HTN: Afterload reduction, SBP better on current meds
   - DM - continue insulin
   - Anemia: follow for now
   ICU Care
   Nutrition:  fair po intake
   Glycemic Control:  fair
   Lines:
   20 Gauge - [**2162-6-8**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin, encourage pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has been diuresed and has improved somewhat. Her creatinine is now
   rising and she has a persistent RLL infiltrate most compatible with
   pneumonia. She is on antibiotics and I suspect will be slow to fully
   recover in light of her immunosuppression. Will hold off on further
   diuresis because of her rising creatinine and continue antibiotics.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2162-6-11**] 13:33 ------

2162-06-12 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2162-6-11**] 09:00 PM
   - renal: no more diuresis, treat pna
   - gave diuril and lasix x 1, did not start lasix gtt given Cr
   - echo with mod pulmonary HTN and mild LVH, nl systolic
   - U/S chest without tappable pleural effusions
   - LFTs unremarkable
   - RUQ U/S normal
   - renally dosed all meds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-10**] 12:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-6-11**] 09:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 66 (61 - 73) bpm
   BP: 114/75(43) {102/37(43) - 142/75(75)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.7 kg (admission): 124.8 kg
   Height: 65 Inch
             Total In:
                                                                    890 mL
                                                                    325 mL
   PO:
                                                                    200 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    710 mL
   Urine:
                                                                  1,605 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -715 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   6.6 g/dL
   198 mg/dL
   3.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   83 mg/dL
   91 mEq/L
   135 mEq/L
   22.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
                             [**2162-6-9**]  04:33 PM
                             [**2162-6-10**]  03:59 AM
                             [**2162-6-10**]  08:22 AM
                             [**2162-6-10**]  05:10 PM
                             [**2162-6-11**]  03:19 AM
                             [**2162-6-11**]  09:10 PM
   WBC
   10.5
   8.1
   6.5
   5.7
   Hct
   27.0
   25.3
   22.3
   22.1
   22.9
   22.3
   Plt
   [**Telephone/Fax (3) 9350**]07
   Cr
   2.2
   2.4
   2.7
   3.0
   3.3
   3.6
   3.7
   Glucose
   178
   119
   177
   140
   182
   136
   198
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:82/0.5, Amylase /
   Lipase:44/38, Albumin:3.1 g/dL, LDH:266 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   59 y.o. F with type 1 diabetes, hypertension, frequent UTI on
   tetracycline immunosuppresion, ESRD s/p CRT in [**2149**], who presents with
   acute onset of dyspnea.
   # Dyspnea: pulmonary edema and peripheral edema
   -echo
   -diurese w/ IV lasix bolus and lasix drip
   -u/s chest to evaluate for pleural effusion
   -continue antihypertensives and lopressor
   -nosocomial PNA- vanc zosyn
   -qam vanc levels (dosed on q48hrs)
   -daily weights
   # ESRD s/p renal transplant:
   - appreciate renal recs
   -f/u cyclosporine level
   - continue immunosuppressants per renal (cyclosporine, prednisone,
   cellcept)
   - continue calcitriol, epo, calcium carbonate, ferrous sulfate,
   sevelamer, sodium bicarbonate
   # DM, type 1: continue lantus and HISS
   -salt / fluid restricted diet
   # Abd pain:
   -add on LFTs and lipase
   -RUQ ultrasound
   # HTN:
   - continue metoprolol, nifedipine CR
   # Hyperlipidemia: continue simvastatin
   # History of frequent UTIs: contiue tetracycline suppression
   # Obesity: will hold sibutramine for now
   # ? gout: continue allopurinol renally dosed
   FEN: no IVFs given diuresis / replete lytes prn / NPO except meds
   PPX: SQ heparin, bowel regimen prn, PPI
   ACCESS: 2 20 guage PIVs
   CODE STATUS: DNR/DNI (confirmed with daughter)
   EMERGENCY CONTACT: with daughter
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2162-6-11**] 09:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2162-06-12 11:21:00 Physician Attending Progress Note
Chief Complaint: Resp distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pulm edema, pneumonia
   24 Hour Events:
 MIDLINE - START [**2162-6-11**] 09:00 PM: not working
 CALLED OUT
   Diuresis held due to rising Cr.
   No pleural effusion on US
   RUQ US normal
   Anxiety overnight.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-6-10**] 12:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-6-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-6-12**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-6-12**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 66 (61 - 73) bpm
   BP: 115/55(67) {102/37(43) - 140/75(75)} mmHg
   RR: 27 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.7 kg (admission): 124.8 kg
   Height: 65 Inch
             Total In:
                                                                    890 mL
                                                                    581 mL
   PO:
                                                                    200 mL
                                                                    370 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    890 mL
   Urine:
                                                                  1,605 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -715 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 4L
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no JVD, no HJR
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Breath Sounds: Crackles improved, no wheezes, no
   egophony
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+, edema
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   6.6 g/dL
   307 K/uL
   198 mg/dL
   3.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   83 mg/dL
   91 mEq/L
   135 mEq/L
   22.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2162-6-8**]  06:23 PM
                             [**2162-6-9**]  05:20 AM
                             [**2162-6-9**]  04:33 PM
                             [**2162-6-10**]  03:59 AM
                             [**2162-6-10**]  08:22 AM
                             [**2162-6-10**]  05:10 PM
                             [**2162-6-11**]  03:19 AM
                             [**2162-6-11**]  09:10 PM
   WBC
   10.5
   8.1
   6.5
   5.7
   Hct
   27.0
   25.3
   22.3
   22.1
   22.9
   22.3
   Plt
   [**Telephone/Fax (3) 9350**]07
   Cr
   2.2
   2.4
   2.7
   3.0
   3.3
   3.6
   3.7
   Glucose
   178
   119
   177
   140
   182
   136
   198
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:82/0.5, Amylase /
   Lipase:44/38, Albumin:3.1 g/dL, LDH:266 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   Fluid analysis / Other labs: No labs today
   CXR: RLL infiltrate/atelectasis
   Assessment and Plan
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
 DYSPNEA (SHORTNESS OF BREATH)
 PULMONARY EDEMA
   59 y.o. F with , ESRD s/p CRT in [**2149**], type 1 diabetes, hypertension,
   frequent UTI on tetracycline immunosuppresion, who presents with acute
   onset of dyspnea [**1-25**] pneumonia and pulm edema.
   - Resp/Renal: diuresis held due to rising Cr. Autoregulate. Needs labs
   today. TTE stable. Contnue abx. No pleural effusion. Add incentive
   spirometry for RLL pneumonia.
   - ID: Needs labs and vanc level today, continue Zosyn x 8 days
   -GI: Needs bowel regimen and appetite stimulant
   - HTN: Afterload reduction, SBP better on current meds
   - DM - continue insulin
   - Anemia: follow for now
   ICU Care
   Nutrition:  fair po intake
   Glycemic Control:  fair
   Lines:
   20 Gauge - [**2162-6-8**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin, encourage pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU, can go to floor later today
   Total time spent:
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Alert NAD
   RR
   Poor air movement
   Abd obese soft + BS
   Ext 3+ edema
   Labs notable for ct 3.7 (from 3.6) yest and
 1L since yesterday
   She has been diuresed and has improved from a resp standpoint but has
   had sig increase in her Cr.
    Now allowing to autoregulate and would run even to 500 cc +.
   RLL infiltrate most compatible with pneumonia.
   She is on antibiotics and likely to beslow to fully recover in light of
   her immunosuppression.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2162-6-12**] 13:45 ------